US06784167B2
A 2° C. solution of (±)-(4R*,5R*)-5-ethoxycarbonyl-1-methyl-4-(4-aminophenyl)pyrrolidin-2-one (prepared according to the procedure for Intermediate U, 3.25 g, 12.4 mmol) in 42% aqueous HBF4 (6 mL) and water (6 mL) was treated dropwise with a solution of NaNO2 (856 mg, 12.4 mmol) in water (6 mL), keeping the reaction temperature below 10° C. The reaction mixture was stirred for 35 min, then poured in one portion into a 90° C. solution of H2SO4 (24 mL) in water (360 mL). The resulting solution was heated at 90° C. for 45 min, cooled to room temperature, diluted with ice (200 g) and extracted with CH2Cl2. The organic layer was dried (MgSo4) and concentrated under reduced pressure to yield (±)-(4R*,5R*)-5-ethoxycarbonyl-1-methyl-4-(4-hydroxyphenyl)-pyrrolidin-2-one (2.90 g, 89%) as an orange oil: 1H NMR (DMSO-d6) δ 0.76 (t, J=6.4 Hz, 3H), 2.41-2.67 (m, 5H), 3.59-3.87 (m, 3H), 4.38 (d, J=8.5 Hz, 1H), 6.63-6.68 (m, 2H), 6.97-7.02 (m, 2H), 9.30 (s, 1H).

reactant | (±)-(4R*,5R*)-5-ethoxycarbonyl-1-methyl-4-(4-aminophenyl)pyrrolidin-2-one | C(C)OC(=O)[C@H]1[C@H](CC(N1C)=O)C1=CC=C(C=C1)N | C14H18N2O3
reactant | NaNO2 | 12.4 mmol, 856 mg | N(=O)[O-].[Na+]
reactant | H2SO4 | 24 mL | OS(=O)(=O)O | H2O4S
solvent | HBF4 | 6 mL | [H+].[B-](F)(F)(F)F
solvent | water | 6 mL | O | H2O
solvent | water | 360 mL | O | H2O
solvent | water | 6 mL | O | H2O
product | (±)-(4R*,5R*)-5-ethoxycarbonyl-1-methyl-4-(4-hydroxyphenyl)-pyrrolidin-2-one | 2.90 g, 89% | C(C)OC(=O)[C@H]1[C@H](CC(N1C)=O)C1=CC=C(C=C1)O | C14H17NO4
